US06143764
N-{4-[(6,7-Dimethoxy-4-quinolinyl)oxy]phenyl}cyclopentanecarboxamide [79]
6,7-Dimethoxy-4-(4-aminophenoxy)quinoline (53 mg) and commercially available cyclopentanecarboxylic acid (66 mg) were dissolved in N,N-dimethylformamide (2 ml), 1-ethyl-3-(3'-dimethylaminopropyl)carbodiimide hydrochloride (110 mg) was added, and the admixture was stirred at room temperature for 17 hours. The reaction mixture was purified in the same manner as described in Example 51 to obtain 35 mg of the title compound (yield: 50%).

reactant | 6,7-Dimethoxy-4-(4-aminophenoxy)quinoline | 53 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=C1)N | C17H16N2O3
reactant | cyclopentanecarboxylic acid | 66 mg | C1(CCCC1)C(=O)O | C6H10O2
reactant | 1-ethyl-3-(3'-dimethylaminopropyl)carbodiimide hydrochloride | 110 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | N-{4-[(6,7-Dimethoxy-4-quinolinyl)oxy]phenyl}cyclopentanecarboxamide | 35 mg, yield: 50% | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=C1)NC(=O)C1CCCC1 | C23H24N2O4
